US05679791
Preparation of Tetrahydro-1,2-pyridazinedicarboxylic acid, diethyl ester
1,4-Dibromobutane (81.4 mL, 0.682 mol) is added over 1 hour to a mixture of 1,2-dicarbethoxyhydrazine (100 g, 0.568 mol) and potassium carbonate (158 g, 1.14 mol) in acetonitrile (600 mL). The resultant reaction mixture is refluxed for 6 hours, cooled to room temperature, and filtered. The filtrate is concentrated in vacuo to obtain a yellow liquid which is distilled under reduced pressure to give the title product as a colorless liquid (90.8 g, bp 115°-120° C. at 0.9 mm Hg).

reactant | 1,4-Dibromobutane | 0.682 mol, 81.4 mL | BrCCCCBr | C4H8Br2
reactant | 1,2-dicarbethoxyhydrazine | 0.568 mol, 100 g | C(=O)(OCC)NNC(=O)OCC | C6H12N2O4
reactant | potassium carbonate | 1.14 mol, 158 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 600 mL | C(C)#N | C2H3N
product | Tetrahydro-1,2-pyridazinedicarboxylic acid, diethyl ester | 90.8 g | N1(N(CCCC1)C(=O)OCC)C(=O)OCC | C10H18N2O4
